US08476434B2
Synthesis of 2-(methylamino)-4-tert-pentylphenol
2-Amino-4-tert-pentylphenol (5.00 g, 27.8 mmol) and potassium carbonate (3.88 g, 28.1 mmol) were mixed at RT for 2.5 hours in DMF (15 mL). Methyl iodide (1.20 mL, 19.3 mmol) was added and the mixture was stirred overnight at RT. Diluted the mixture with EtOAc and extracted with aqueous sodium bicarbonate and water. Dried the organic layers over sodium sulfate, filtered, concentrated and purified by silica gel chromatography (10-15% MTBE/hexanes). Concentrated the product fractions to yield the title compound.

reactant | 2-Amino-4-tert-pentylphenol | 27.8 mmol, 5.00 g | NC1=C(C=CC(=C1)C(C)(C)CC)O | C11H17NO
reactant | potassium carbonate | 28.1 mmol, 3.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl iodide | 19.3 mmol, 1.20 mL | CI | CH3I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(methylamino)-4-tert-pentylphenol | CNC1=C(C=CC(=C1)C(C)(C)CC)O | C12H19NO
